* bias-core-startup -- stimulus half of the testbench fragment.
*
* The other half is a verbatim copy of design/netlist/bias_core.spice,
* appended by sim/build_tb.py to produce tb_bias_core_startup.spice. Edit
* THIS file (or the schematic), never the generated fragment.
*
* Netlist FRAGMENT: no .include / .lib / .temp / .control / .end -- the
* harness owns those. Parameters it supplies: vdd_val, vdd_nom, temp_c.
*
* ---------------------------------------------------------------------------
* METHOD CHANGE, issue #46: this experiment was a `.dc` continuation sweep and
* is now a QUASI-STATIC TRANSIENT RAMP. Records taken before 2026-08-01 used
* the old method; the two are NOT comparable point-for-point, and the reason
* is that the old method was measuring its own convergence aid.
*
* What the old deck did, and why it had to go. It swept `vdd` with `.dc` from
* 0 to 3.63 V, letting ngspice's continuation seed each step from the previous
* step's solution, and it could only be made to converge at all by raising
* `gmin` from ngspice's default 1e-12 to 1e-9 (see the CONVERGENCE note in the
* superseded revision, `git show e47a8e0:sim/bias-core-startup/testbench/
* stimulus.spice`). GMIN is a conductance ngspice places across every device
* junction to keep the Jacobian non-singular. At 1 nS and 3.3 V of rail that
* is ~2.7 nA per junction -- and the settle comparator this experiment exists
* to test resolves a 0.247 nA imbalance between two ~4.5 nA branches. The
* comparator's own output node `NOKO` carries one junction (`XMOKC`'s drain)
* that its reference-side counterpart `NOKL` does not, so the aid injected a
* 0.563 nA DIFFERENTIAL error -- larger than the signal. That, and not the
* circuit, is what the 27-of-27 `BIAS_OK` failure in record
* `20260801-111049-bc599be` measured.
*
* The controlled experiment is COMMITTED, in `../control/`: one deck, one
* variable (`.options gmin`), both raw ngspice logs, and the generated
* `../control/results.md` that every number in this comment block is
* transcribed from. Re-run it with
* `python3 sim/bias-core-startup/control/run_gmin_control.py`. The one-line
* version is that at tt/-40 C, VDD = 3.3 V, a plain `op` gives
* V(NOKO) = 0.605 V and BIAS_OK = 1.54 uV at gmin = 1e-9, and
* V(NOKO) = 1.643 V and BIAS_OK = 3.29999985 V at ngspice's default gmin,
* with nothing else changed.
*
* The `.dc` sweep cannot simply be re-run at the default gmin: it does not
* converge there at any of the 27 corner/temperature combinations (all 27 hit
* the harness's 300 s per-point timeout). A DC continuation is the wrong tool
* for a circuit whose operating point below ~1 V of rail has every branch near
* cutoff at once. A transient does not need the crutch: it integrates through
* that region instead of solving it standing still, and it converges at every
* one of the 81 points here at ngspice's default gmin.
*
* WHY A SLOW RAMP AND NOT A DC SWEEP -- the same argument
* sim/por-output-chain-floor/ already makes in this repo for the same reason.
* A transient ramp is the stronger evidence anyway: it is a trajectory a real
* rail can actually take, rather than a sequence of independent DC solutions
* stitched together by a solver heuristic.
*
* ---------------------------------------------------------------------------
* WHAT "QUASI-STATIC" MEANS HERE, AND HOW THIS DECK PROVES IT
*
* The claim the experiment needs is the RAMP-RATE-INDEPENDENT one: where does
* a continuously rising rail leave this cell, in the limit where the rail is
* slow compared with the loop. design/bias_core.md measures the loop's
* settling at 10.9-33.4 us, so at this deck's 121 V/s the loop is never more
* than ~1.3-4.0 mV of rail behind -- 0.1 % of the rail. That is an argument,
* not evidence, so the deck also MEASURES rate-independence: `xqf` is a third
* DUT on a 4x faster ramp (484 V/s), and `qs_rate_delta_mv` is the difference
* in the rail at which BIAS_OK asserts between the two. Two rates a factor of
* four apart agreeing to within tens of millivolts is the statement that both
* are in the quasi-static limit; a rate-dependent result would show up there
* first. Both rates sit 3-4 decades below the 0.36 V/us boundary at which
* design/bias_core.md measures the loop starting to lag, and inside the
* ratified spec/target-spec.md#por-ramp-rate envelope (1 V/s ... 1 V/us) --
* whose full sweep remains #14's chartered row, deliberately not pre-empted
* here.
*
* THREE DUTS, one `tran`, the multi-DUT idiom this repo already uses in
* sim/bias-core-designer-check/ and sim/por-output-chain-floor/:
*
*   xqs  0 -> 3.63 V over 30 ms, then flat      the primary quasi-static cold
*        (121 V/s)                              start. Every branch-tracking,
*                                               ordering and release-rail
*                                               measurement is taken here.
*   xqf  0 -> 3.63 V over 7.5 ms, then flat     the same experiment 4x faster,
*        (484 V/s)                              used ONLY to demonstrate that
*                                               the primary result is in the
*                                               quasi-static limit.
*   xbo  the xqs ramp, then a FULL collapse to  the brownout-restart branch:
*        0 V and 3 ms of dead rail, then the    whether the cell restarts onto
*        same quasi-static ramp again           the same branch, and whether
*                                               BIAS_OK reads a stale valid
*                                               while the rail is down.
*
* The brownout branch is the second half of the cross-check issue #43's
* acceptance criteria asked for ("a transient cold-start + brownout-restart
* experiment") and #46 inherited. sim/bias-core-designer-check/ already covers
* collapse-and-restart on a FAST rail (its `t_bo_recover_us` / `bo_deep_ppm`);
* what is new here is that the restart is quasi-static, which is the case
* where a wrong branch has all the time it needs to establish itself.
*
* The supply axis of the PVT grid is deliberately degenerate for this
* experiment, exactly as it was for the superseded `.dc` revision: the ramp
* passes through 2.97, 3.30 and 3.63 V on its way up, so the three supply
* points of the mandated grid produce identical curves by construction and
* `vdd_val` is not referenced below. The grid is still run in full (9 process
* corners x 3 temperatures x 3 supplies = 81 ngspice invocations) because
* sim/README.md requires the full mandated PVT matrix on every recorded result
* and a redundant supply axis is not grounds for a --subset-reason; the record
* groups results by the 27 distinct (process, temperature) combinations, each
* backed by three bit-identical supply replicates.
*
* IBIAS carries the same consumer-diode replica load the other two bias_core
* experiments use (temp_core's XMBD 4u/2u and por_comparator's XMBD 2u/2u,
* verbatim from the exported netlists), so the ramp sees the loading the
* shared node actually carries.
*
* The DEAD-state half of the startup claim -- that the degenerate zero-current
* solution is not stable anywhere on the grid -- is covered separately, and
* more strongly, by sim/bias-core-designer-check/'s `vref_op_v`, which seeds
* the DC solve IN that state at all 81 points.

* ---- xqs: primary quasi-static cold start, 121 V/s -------------------------
vqs vddq 0 PWL(0 0 30m 3.63 70m 3.63)
vibq nibq ibiasq dc 0
xqs vddq 0 nibq vrefq bias_okq bias_core
xldtq ibiasq ibiasq 0 0 nfet_03v3 L=2u W=4u nf=1 m=1
xldcq ibiasq ibiasq 0 0 nfet_03v3 L=2u W=2u nf=1 m=1

* The release guard, verbatim in form from sim/bias-core-designer-check/: the
* rail at which the ASSEMBLED block would actually release, i.e. where
* (BIAS_OK is a valid high) and (VDD >= 2.16667*VREF, por_comparator's ratified
* divider ratio) first hold together. -1 while BIAS_OK is not valid, so a
* rising zero-crossing is the release event. This is the measurement that
* carries spec/target-spec.md#por-vth-rise, and it is reference-referred rather
* than rail-referred: a BIAS_OK that went valid early against a still-rising
* reference shows up here as a release rail below 2.47 V.
Brelq relq 0 v = (v(bias_okq) > 0.5*v(vddq)) ? (v(vddq) - 2.16667*v(vrefq)) : -1

* ---- xqf: the same cold start 4x faster, 484 V/s ---------------------------
* Present only to measure rate-independence (`qs_rate_delta_mv`).
vqf vddf 0 PWL(0 0 7.5m 3.63 70m 3.63)
vibf nibf ibiasf dc 0
xqf vddf 0 nibf vreff bias_okf bias_core
xldtf ibiasf ibiasf 0 0 nfet_03v3 L=2u W=4u nf=1 m=1
xldcf ibiasf ibiasf 0 0 nfet_03v3 L=2u W=2u nf=1 m=1

* ---- xbo: quasi-static cold start, full collapse, quasi-static restart -----
* 3 ms of dead rail at 0 V, with the rail source itself holding 0 V, so every
* internal node discharges into it. How cold the cell actually gets is
* MEASURED rather than asserted: `vref_bo_dip_v` samples VREF two-thirds of
* the way through the window (35 ms, i.e. 2 ms into the 3 ms), and the record
* reports 0.016...0.518 V there -- so at the slowest corner (`ss`/-40 C) the
* cell is substantially, not completely, discharged when the restart begins.
* An earlier revision of this comment claimed the window was "~4 time
* constants ... so the restart starts from a genuinely cold cell"; the
* measurement does not support that at every corner, and the claim is not
* needed here. State the limit instead: a partly-discharged cell is biased
* toward the branch it was already on, so `vref_bo_end_delta_ppm` agreeing to
* better than 1 ppm says the restart is REPEATABLE, not that no second branch
* is reachable. The stronger statement -- that the degenerate zero-current
* solution is not stable anywhere on the grid -- is made where it belongs, by
* sim/bias-core-designer-check/'s `vref_op_v`, which SEEDS the DC solve in
* that state at all 81 points (see the note at the end of this header).
vbo vddb 0 PWL(0 0 30m 3.63 32m 3.63 33m 0 36m 0 66m 3.63 70m 3.63)
vibb nibb ibiasb dc 0
xbo vddb 0 nibb vrefb bias_okb bias_core
xldtb ibiasb ibiasb 0 0 nfet_03v3 L=2u W=4u nf=1 m=1
xldcb ibiasb ibiasb 0 0 nfet_03v3 L=2u W=2u nf=1 m=1
